US09024093B2
N-Boc-indole-5-boronic acid (S49)
To N-Boc-indole-5-boronic acid pinacol ester (172 mg, 0.500 mmol, 1.00 equiv) in acetone/H2O (5.0 mL/5.0 mL) at 23° C. was added NH4OAc (193 mg, 2.50 mmol, 5.00 equiv) and NaIO4 (535 mg, 2.00 mmol, 4.00 equiv). After stirring for 24 hr at 23° C., the reaction mixture was concentrated in vacuo to remove acetone. To the residual solution was added EtOAc (5 mL) and the phases were separated. The aqueous phase was extracted with EtOAc (2×5 mL). The combined organic phases are washed with brine (10 mL) and dried (Na2SO4). The filtrate was concentrated in vacuo and the residue was purified by chromatography on silica gel eluting with hexanes/EtOAc 1:1 (v/v) to afford 70.0 mg of the title compound as a colorless solid (54% yield).

reactant | N-Boc-indole-5-boronic acid pinacol ester | 0.500 mmol, 172 mg, 1.00 equiv | C(=O)(OC(C)(C)C)N1C=CC2=CC(=CC=C12)B1OC(C)(C)C(C)(C)O1 | C19H26BNO4
solvent | acetone H2O | 5.0 mL | CC(=O)C.O
product | N-Boc-indole-5-boronic acid | 70.0 mg, 54% yield | C(=O)(OC(C)(C)C)N1C=CC2=CC(=CC=C12)B(O)O | C13H16BNO4
